US20010014689A1
A. 4-Bromo-1-fluoronaphthalene
To a 50 mL round-bottomed flask equipped with condenser and N2 inlet were added 3.75 mL (5.0 g, 34.25 mmol) 1-fluoronaphthalene and 10 mL carbon tetrachloride, followed by dropwise addition of 1.7 mL (5.5 g., 34.375 mmol) bromine over 3 min. The reaction was heated to 50-60° C. as HBr was evolved for 2 hour, then cooled and concentrated. The residue was dissolved in methanol and kept overnight at 0° C. After filtration with cold methanol, the product, with melting point close to room temperature, was 4.62 g (60%) of a yellow oil. 1H-NMR (δ, CDCl3): 7.02 (t, J=8, 1H), 7.6-7.7 (m, 3H), 8.10 (d, J=8.5, 1H), 8.20 (d, J=8.5, 1H); GCMS (%): 224/226 (parent, Br79/Br81 100).

reactant | 1-fluoronaphthalene | 34.25 mmol, 3.75 mL, 5.0 g | FC1=CC=CC2=CC=CC=C12 | C10H7F
reactant | bromine | 34.375 mmol, 1.7 mL, 5.5 g | BrBr | Br2
reactant | HBr | Br | BrH
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromo-1-fluoronaphthalene | BrC1=CC=C(C2=CC=CC=C12)F | C10H6BrF
